US06756378B2
To a stirred solution of ethyl 4-hydroxy-3-methoxybenzoate (2.01 g, 10.25 mmol), N-methyl-N-(benzyloxycarbonyl)ethanolamine (2.11 g, 10.08 mmol), PPh3 (3.26 g, 12.43 mmol) in THF was added DIAD (2.65 mL, 13.46 mmol) and the reaction mixture was heated under reflux overnight. The mixture was evaporated, and the residue was subjected to short column chromatography on silica-gel with n-hexane/EtOAc (5:1, v/v) as eluent to give ethyl 3-methoxy-4-[2-methyl-2-(benzyloxycarbonyl)aminoethoxy]benzoate as a crude product.

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 10.25 mmol, 2.01 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | N-methyl-N-(benzyloxycarbonyl)ethanolamine | 10.08 mmol, 2.11 g | CN(CCO)C(=O)OCC1=CC=CC=C1 | C11H15NO3
reactant | PPh3 | 12.43 mmol, 3.26 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 13.46 mmol, 2.65 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 3-methoxy-4-[2-methyl-2-(benzyloxycarbonyl)aminoethoxy]benzoate | COC=1C=C(C(=O)OCC)C=CC1OCC(NC(=O)OCC1=CC=CC=C1)C | C21H25NO6
